US07612067B2
Preparation of N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-fluoro-thiazol-2-yl}-morpholine
50 mg of 3-(4-Bromo-2-morpholin-4-yl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.11 mmol) is dissolved in 4 ml of diethylether and cooled to −78° C. and 0.1 ml of n-BuLi 1.6M in hexane (0.16 mmol) is added at −78° C. and stirred at −78° C. for 20 min. 104 mg of N-fluorobenzene sulfonimide (0.33 mmol) in 2 ml of toluene is added at −78° C. and stirred at room temperature for 1 h. sat. NH4Cl is added, and the mixture is extracted with Et2O, dried over Na2SO4 and evaporated. The crude product is applied onto a silica-gel chromatography column (Hexane:AcOEt=3:1) to give 4.1 mg of the title compound. Yield 10%. Mass spectrum (m/e): 404 (M+1). 6.71 (s, 1H), 3.87 (t, J=4.6 Hz, 4H), 3.55 (t, J=5.0 Hz, 4H), 3.34 (m, 1H), 2.58 (s, 3H), 2.54 (s, 3H), 1.84 (m, 4H), 0.88 (t, J=7.4 Hz, 6H).

reactant | 3-(4-Bromo-2-morpholin-4-yl-thiazol-5-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.11 mmol, 50 mg | BrC=1N=C(SC1C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)N2CCOCC2 | C20H26BrN5OS
reactant | n-BuLi | 1.6M, 0.1 ml | [Li]CCCC
reactant | hexane | 0.16 mmol | CCCCCC | C6H14
reactant | N-fluorobenzene sulfonimide | 0.33 mmol, 104 mg | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | diethylether | 4 ml | C(C)OCC | C4H10O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | N-{5-[8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-4-fluoro-thiazol-2-yl}-morpholine | 4.1 mg, Yield 10% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C(S2)N2CCOCC2)F | C20H26FN5OS
